US08026234B2
2-Fluoro-5-methoxy-4-nitrobenzoic acid:
To a solution of methyl-2,5-difluoro-4-nitrobenzoate (1 g, 4.6 mmol) in methanol (10 mL) was added sodium methoxide (95%, 393 mg, 6.9 mmol). The reaction mixture was stirred at room temperature overnight. It was then concentrated, acidified with HCl. Solid was filtered and dried to give the product as light yellow powder (728 mg, 70%). 1H NMR (400 MHz, DMSO-d6) δ ppm 3.95 (s, 3H) 7.66 (d, J=4 Hz, 1H) 8.01 (d, J=8 Hz, 1H).

reactant | methyl-2,5-difluoro-4-nitrobenzoate | 4.6 mmol, 1 g | COC(C1=C(C=C(C(=C1)F)[N+](=O)[O-])F)=O | C8H5F2NO4
reactant | sodium methoxide | 6.9 mmol, 393 mg | C[O-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | 2-Fluoro-5-methoxy-4-nitrobenzoic acid | 728 mg, 70% | FC1=C(C(=O)O)C=C(C(=C1)[N+](=O)[O-])OC | C8H6FNO5
